US07482354B2
1-Methyl-8-(pyridin-2-ylamino)-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide [B15-X00-M00(C01)-D03]
To a solution of ethyl 1-methyl-8-(pyridin-2-ylamino)-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (220 mg, 0.63 mmol) in methanol (250 mL), 33% aqueous ammonium hydroxide (100 mL) was added and the solution was stirred at 65° C. for 8 hours.

reactant | ethyl 1-methyl-8-(pyridin-2-ylamino)-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 0.63 mmol, 220 mg | CN1N=C(C=2CCC=3C=NC(=NC3C21)NC2=NC=CC=C2)C(=O)OCC | C18H18N6O2
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
solvent | methanol | 250 mL | CO | CH4O
product | 1-Methyl-8-(pyridin-2-ylamino)-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | CN1N=C(C=2CCC=3C=NC(=NC3C21)NC2=NC=CC=C2)C(=O)N | C16H15N7O
